US07749999B2
1-tert-Butyl-3-isocyanato-benzene.
3-t-Butyl-aniline (150 mg, 1 mmol) was converted to the isocyanate as described above and then dissolved in 4 mL DCM. Hydrazate (104 mg, 1 mmol) was added and the reaction was continued at rt overnight. Preparative LC-MS purification afforded 181 mg of the target compound as a white solid.

reactant | 3-t-Butyl-aniline | 1 mmol, 150 mg | C(C)(C)(C)C=1C=C(N)C=CC1 | C10H15N
reactant | isocyanate | [N-]=C=O
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 1-tert-Butyl-3-isocyanato-benzene | 181 mg | C(C)(C)(C)C1=CC(=CC=C1)N=C=O | C11H13NO
